US08138175B2
D) 3-Methyl-4-(3-trifluoromethoxy-phenyl)-piperazin-2-one
Sodium iodide (64 mg, 0.43 mmol) and NaHCO3 (86 mg, 1.03 mmol) were added to a solution of 2-chloro-N-[2-(3-trifluoromethoxy-phenylamino)-ethyl]-propionamide (266 mg, 0.86 mmol) in acetone (20 mL). The reaction mixture was heated at reflux for 72 h, then evaporated. The residue was partitioned between EtOAc and water. The organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane/EtOAc gradient) afforded the title compound (156 mg, 66%). Yellow oil, MS: 275.1 (M+H)−.

reactant | Sodium iodide | 0.43 mmol, 64 mg | [I-].[Na+]
reactant | NaHCO3 | 1.03 mmol, 86 mg | C(=O)(O)[O-].[Na+]
reactant | 2-chloro-N-[2-(3-trifluoromethoxy-phenylamino)-ethyl]-propionamide | 0.86 mmol, 266 mg | ClC(C(=O)NCCNC1=CC(=CC=C1)OC(F)(F)F)C | C12H14ClF3N2O2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-Methyl-4-(3-trifluoromethoxy-phenyl)-piperazin-2-one | 156 mg, 66% | CC1C(NCCN1C1=CC(=CC=C1)OC(F)(F)F)=O | C12H13F3N2O2
